US06906072B1
Reference Example 90 1-benzyl-4-[3-[1-(4-fluorophenyl)cyclohexyl]propyl]piperazine
1-Benzyl-4-[3-[1-(4-fluorophenyl)cyclohexyl]-1-oxopropyl]piperazine (5.90 g) was dissolved in tetrahydrofuran (100 ml), and 80% lithium aluminum hydride, (1.03 g) was added thereto under ice-cooling. After heating under reflux for 1.5 hours, the mixture was cooled as it was to room temperature. Under ice-cooling, water, a 1N aqueous sodium hydroxide and further water were added thereto, and the insoluble matters were filtered off. The filtrate was evaporated, and the resulting residue was recrystallized from ethanol, to give 4.48 g (79%) of the title compound as white crystals.

reactant | 1-Benzyl-4-[3-[1-(4-fluorophenyl)cyclohexyl]-1-oxopropyl]piperazine | 5.90 g | C(C1=CC=CC=C1)N1CCN(CC1)C(CCC1(CCCCC1)C1=CC=C(C=C1)F)=O | C26H33FN2O
reactant | lithium aluminum hydride | 1.03 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-benzyl-4-[3-[1-(4-fluorophenyl)cyclohexyl]propyl]piperazine | 4.48 g, 79% | C(C1=CC=CC=C1)N1CCN(CC1)CCCC1(CCCCC1)C1=CC=C(C=C1)F | C26H35FN2
